US08377923B2
Triethyl orthoformate (4 ml) and p-toluenesulfonic acid (200 mg) were added to a solution of 4-amino-N-ethyl-3-(methylamino)benzamide (1.92 g) in tetrahydrofuran (40 ml), followed by heating to reflux for one hour. The solvent was evaporated under reduced pressure and water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The resulting residue was washed with diisopropylether to obtain N-ethyl-1-methyl-1H-benzimidazole-6-carboxamide (1.16 g), as a colorless solid.

reactant | Triethyl orthoformate | 4 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 4-amino-N-ethyl-3-(methylamino)benzamide | 1.92 g | NC1=C(C=C(C(=O)NCC)C=C1)NC | C10H15N3O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | N-ethyl-1-methyl-1H-benzimidazole-6-carboxamide | 1.16 g | C(C)NC(=O)C=1C=CC2=C(N(C=N2)C)C1 | C11H13N3O
